US05834471
2-Bromo-N-[4-methoxy-3-(4-methyl-1-piperazinyl)phenyl]-3-methoxythiophene-4-carboxamide
2-Bromo-3-methoxythiophene-4-carboxylic acid (0.429 g; 1.81 mmol) was heated at reflux in thionyl chloride (8 ml) for 1 hour, cooled, evaporated in vacuo and the residue azeotroped with toluene. The orange residue was redissolved in CH2Cl2 (5 ml) and treated with dry triethylamine (0.25 ml;1.81 mmol) and 4-methoxy-3-(4-methyl-1-piperazinyl)benzenamine (0.4 g; 1.8mmol). The solution was stirred under Ar (18 hours), evaporated in vacuo and partitioned satd. K2CO3 (aq)/EtOAc. The organic phases were combined, dried over Na2SO4, filtered and the filtrate evaporated in vacuo to a brown gum. The gum was purified by flash silica-gel chromatography and eluted with 2%MeOH/CHCl3 to yield the title compound as white powder after trituration with Et2O (0.43 g;54%), mp=120-122° C.

reactant | 2-Bromo-3-methoxythiophene-4-carboxylic acid | 1.81 mmol, 0.429 g | BrC=1SC=C(C1OC)C(=O)O | C6H5BrO3S
reactant | triethylamine | 1.81 mmol, 0.25 ml | C(C)N(CC)CC | C6H15N
reactant | 4-methoxy-3-(4-methyl-1-piperazinyl)benzenamine | 1.8mmol, 0.4 g | COC1=C(C=C(C=C1)N)N1CCN(CC1)C | C12H19N3O
solvent | thionyl chloride | 8 ml | S(=O)(Cl)Cl | Cl2OS
product | 2-Bromo-N-[4-methoxy-3-(4-methyl-1-piperazinyl)phenyl]-3-methoxythiophene-4-carboxamide | BrC=1SC=C(C1OC)C(=O)NC1=CC(=C(C=C1)OC)N1CCN(CC1)C | C18H22BrN3O3S
